* NGSPICE file created from user_analog_project_wrapper.ext - technology: sky130A

.subckt esd out in VDD GND
X0 out VDD VDD VDD sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X1 in GND GND GND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X2 out GND GND GND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X3 VDD VDD in VDD sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X4 out in GND sky130_fd_pr__res_high_po w=2.85e+06u l=1.3e+06u
.ends

.subckt esd_wide out in VDD GND
X0 VDD VDD out VDD sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X1 in GND GND GND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X2 out GND GND GND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X3 VDD VDD in VDD sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X4 out in GND sky130_fd_pr__res_high_po w=2.85e+06u l=1.3e+06u
.ends

.subckt esd_half VDD GND inout
X0 inout GND GND GND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X1 VDD VDD inout VDD sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
.ends

.subckt cmfb_half VDD GND Vout res Vb3 Vin diode
X0 Vout Vin res GND sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=1e+07u l=200000u M=15
X1 GND Vb3 res GND sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=1.3e+07u l=500000u M=5
X2 Vout diode VDD VDD sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=1.05e+07u l=200000u M=4
.ends

.subckt cmfb Vb3 Vref GND Vcmfb Vcm VDD
Xcmfb_half_1 VDD GND Vcmfb cmfb_half_1/res Vb3 Vref cmfb_half_0/Vout cmfb_half
Xcmfb_half_0 VDD GND cmfb_half_0/Vout cmfb_half_0/res Vb3 Vcm cmfb_half_0/Vout cmfb_half
X0 cmfb_half_1/res cmfb_half_0/res GND sky130_fd_pr__res_xhigh_po w=1.41e+06u l=1.41e+06u
.ends

.subckt mirror_4 GND Vb4_ Vb4
X0 a_1900_980# a_5540_1300# GND sky130_fd_pr__res_xhigh_po w=350000u l=1.6e+07u
X1 Vb4 GND sky130_fd_pr__cap_mim_m3_1 l=1.58e+07u w=1.58e+07u
X2 a_1900_2900# a_5540_2580# GND sky130_fd_pr__res_xhigh_po w=350000u l=1.6e+07u
X3 GND Vb4 sky130_fd_pr__cap_mim_m3_2 l=1.58e+07u w=1.58e+07u
X4 Vb4_ GND GND GND sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=4e+06u l=450000u
X5 a_1900_980# a_5540_660# GND sky130_fd_pr__res_xhigh_po w=350000u l=1.6e+07u
X6 a_1900_2260# a_5540_1940# GND sky130_fd_pr__res_xhigh_po w=350000u l=1.6e+07u
X7 a_1900_1620# a_5540_1300# GND sky130_fd_pr__res_xhigh_po w=350000u l=1.6e+07u
X8 a_1900_340# a_5540_20# GND sky130_fd_pr__res_xhigh_po w=350000u l=1.6e+07u
X9 GND GND GND GND sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=4e+06u l=450000u
X10 a_1900_2900# Vb4 GND sky130_fd_pr__res_xhigh_po w=350000u l=1.6e+07u
X11 Vb4_ a_5540_20# GND sky130_fd_pr__res_xhigh_po w=350000u l=1.6e+07u
X12 Vb4_ Vb4_ GND GND sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=4e+06u l=450000u
**devattr d=D
X13 a_1900_2260# a_5540_2580# GND sky130_fd_pr__res_xhigh_po w=350000u l=1.6e+07u
X14 a_1900_1620# a_5540_1940# GND sky130_fd_pr__res_xhigh_po w=350000u l=1.6e+07u
X15 a_1900_340# a_5540_660# GND sky130_fd_pr__res_xhigh_po w=350000u l=1.6e+07u
.ends

.subckt sf_half Vout g_u g_d GND VDD
X0 VDD g_u Vout GND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=2.5e+07u l=320000u M=26
X1 Vout g_d GND GND sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=2.5e+07u l=450000u M=26
.ends

.subckt sf VDD Vin_n Vout_p Vout_n GND Vb4 Vin_p
Xsf_half_0 Vout_p Vin_p Vb4 GND VDD sf_half
Xsf_half_1 Vout_n Vin_n Vb4 GND VDD sf_half
.ends

.subckt mirror_3 GND Vb3 Vb3_
X0 a_1900_980# a_5540_1300# GND sky130_fd_pr__res_xhigh_po w=350000u l=1.6e+07u
X1 Vb3 GND sky130_fd_pr__cap_mim_m3_1 l=1.58e+07u w=1.58e+07u
X2 a_1900_2900# a_5540_2580# GND sky130_fd_pr__res_xhigh_po w=350000u l=1.6e+07u
X3 GND GND GND GND sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=500000u M=2
X4 GND Vb3 sky130_fd_pr__cap_mim_m3_2 l=1.58e+07u w=1.58e+07u
X5 a_1900_980# a_5540_660# GND sky130_fd_pr__res_xhigh_po w=350000u l=1.6e+07u
X6 Vb3_ Vb3_ GND GND sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=500000u M=2
X7 a_1900_2260# a_5540_1940# GND sky130_fd_pr__res_xhigh_po w=350000u l=1.6e+07u
X8 a_1900_1620# a_5540_1300# GND sky130_fd_pr__res_xhigh_po w=350000u l=1.6e+07u
X9 a_1900_340# a_5540_20# GND sky130_fd_pr__res_xhigh_po w=350000u l=1.6e+07u
X10 a_1900_2900# Vb3 GND sky130_fd_pr__res_xhigh_po w=350000u l=1.6e+07u
X11 Vb3_ a_5540_20# GND sky130_fd_pr__res_xhigh_po w=350000u l=1.6e+07u
X12 a_1900_2260# a_5540_2580# GND sky130_fd_pr__res_xhigh_po w=350000u l=1.6e+07u
X13 a_1900_1620# a_5540_1940# GND sky130_fd_pr__res_xhigh_po w=350000u l=1.6e+07u
X14 a_1900_340# a_5540_660# GND sky130_fd_pr__res_xhigh_po w=350000u l=1.6e+07u
.ends

.subckt core_half Vout Vin s VDD Vcmfb Vb2 GND
X0 VDD Vb2 Vout VDD sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=2.8e+07u l=180000u M=16
X1 Vout Vcmfb VDD VDD sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=2.8e+07u l=180000u M=4
X2 s Vin Vout GND sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=2.5e+07u l=150000u M=6
.ends

.subckt core Vin_p GND Vb2 Vcmfb Vb1 Vin_n Vout_n Vout_p VDD
Xcore_half_0 Vout_n Vin_p core_half_1/s VDD Vcmfb Vb2 GND core_half
Xcore_half_1 Vout_p Vin_n core_half_1/s VDD Vcmfb Vb2 GND core_half
X0 GND Vb1 core_half_1/s GND sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=7.1e+07u l=500000u M=10
.ends

.subckt mirror_1 Vb1 GND Vb1_
X0 a_1900_980# a_5540_1300# GND sky130_fd_pr__res_xhigh_po w=350000u l=1.6e+07u
X1 Vb1 GND sky130_fd_pr__cap_mim_m3_1 l=1.58e+07u w=1.58e+07u
X2 Vb1_ Vb1_ GND GND sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=3.6e+06u l=500000u
**devattr d=D
X3 a_1900_2900# a_5540_2580# GND sky130_fd_pr__res_xhigh_po w=350000u l=1.6e+07u
X4 Vb1_ GND GND GND sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=3.6e+06u l=500000u
X5 GND Vb1 sky130_fd_pr__cap_mim_m3_2 l=1.58e+07u w=1.58e+07u
X6 a_1900_980# a_5540_660# GND sky130_fd_pr__res_xhigh_po w=350000u l=1.6e+07u
X7 GND GND GND GND sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=3.6e+06u l=500000u
X8 a_1900_2260# a_5540_1940# GND sky130_fd_pr__res_xhigh_po w=350000u l=1.6e+07u
X9 a_1900_1620# a_5540_1300# GND sky130_fd_pr__res_xhigh_po w=350000u l=1.6e+07u
X10 a_1900_340# a_5540_20# GND sky130_fd_pr__res_xhigh_po w=350000u l=1.6e+07u
X11 a_1900_2900# Vb1 GND sky130_fd_pr__res_xhigh_po w=350000u l=1.6e+07u
X12 Vb1_ a_5540_20# GND sky130_fd_pr__res_xhigh_po w=350000u l=1.6e+07u
X13 a_1900_2260# a_5540_2580# GND sky130_fd_pr__res_xhigh_po w=350000u l=1.6e+07u
X14 a_1900_1620# a_5540_1940# GND sky130_fd_pr__res_xhigh_po w=350000u l=1.6e+07u
X15 a_1900_340# a_5540_660# GND sky130_fd_pr__res_xhigh_po w=350000u l=1.6e+07u
.ends

.subckt top VDD GND Vout_n Vout_p Vb2 Vb5 Vb1_ Vb3_ Vb4_ Iin_p Iin_n
Xcmfb_0 cmfb_1/Vb3 Vb5 GND Vcmfb1 Vcm1 VDD cmfb
Xcmfb_1 cmfb_1/Vb3 Vb5 GND Vcmfb2 Vcm2 VDD cmfb
Xmirror_4_0 GND Vb4_ sf_0/Vb4 mirror_4
Xsf_0 VDD pre_Vout_p Vout_n Vout_p GND sf_0/Vb4 pre_Vout_n sf
Xmirror_3_0 GND cmfb_1/Vb3 Vb3_ mirror_3
Xcore_0 Vinp GND Vb2 Vcmfb1 core_1/Vb1 Vinn Von Vop VDD core
Xmirror_1_0 core_1/Vb1 GND Vb1_ mirror_1
Xcore_1 Von GND Vb2 Vcmfb2 core_1/Vb1 Vop pre_Vout_p pre_Vout_n VDD core
X0 pre_Vout_p Vinn GND sky130_fd_pr__res_xhigh_po w=700000u l=5.3e+07u
X1 Vop a_15650_n4552# GND sky130_fd_pr__res_xhigh_po w=1.41e+06u l=1.41e+06u
X2 Vcmfb2 GND sky130_fd_pr__cap_mim_m3_1 l=3.35e+07u w=3.35e+07u
X3 Vinp Iin_p sky130_fd_pr__cap_mim_m3_1 l=6.12e+07u w=6.12e+07u
X4 GND Vcmfb1 sky130_fd_pr__cap_mim_m3_2 l=3.35e+07u w=3.35e+07u
X5 Vcm1 Vop GND sky130_fd_pr__res_xhigh_po w=1.41e+06u l=3.5e+07u
X6 GND Vcmfb2 sky130_fd_pr__cap_mim_m3_2 l=3.35e+07u w=3.35e+07u
X7 pre_Vout_p Vcm2 GND sky130_fd_pr__res_xhigh_po w=1.41e+06u l=3.5e+07u
X8 Iin_p Vinp sky130_fd_pr__cap_mim_m3_2 l=6.12e+07u w=6.12e+07u
X9 a_n1350_n4552# Von GND sky130_fd_pr__res_xhigh_po w=1.41e+06u l=1.41e+06u
X10 a_15650_n4552# pre_Vout_n sky130_fd_pr__cap_mim_m3_1 l=7.75e+06u w=7.75e+06u
X11 pre_Vout_n Vinp GND sky130_fd_pr__res_xhigh_po w=700000u l=5.3e+07u
X12 a_n1350_n4552# pre_Vout_p sky130_fd_pr__cap_mim_m3_1 l=7.75e+06u w=7.75e+06u
X13 Vinn Iin_n sky130_fd_pr__cap_mim_m3_1 l=6.12e+07u w=6.12e+07u
X14 pre_Vout_n a_15650_n4552# sky130_fd_pr__cap_mim_m3_2 l=7.75e+06u w=7.75e+06u
X15 Von Vcm1 GND sky130_fd_pr__res_xhigh_po w=1.41e+06u l=3.5e+07u
X16 Vcm2 pre_Vout_n GND sky130_fd_pr__res_xhigh_po w=1.41e+06u l=3.5e+07u
X17 Iin_n Vinn sky130_fd_pr__cap_mim_m3_2 l=6.12e+07u w=6.12e+07u
X18 pre_Vout_p a_n1350_n4552# sky130_fd_pr__cap_mim_m3_2 l=7.75e+06u w=7.75e+06u
X19 Vcmfb1 GND sky130_fd_pr__cap_mim_m3_1 l=3.35e+07u w=3.35e+07u
.ends

.subckt big_cap VDD GND
X0 GND VDD sky130_fd_pr__cap_mim_m3_2 l=5.5e+07u w=5.5e+07u
X1 GND VDD sky130_fd_pr__cap_mim_m3_2 l=5.5e+07u w=5.5e+07u
X2 VDD GND sky130_fd_pr__cap_mim_m3_1 l=5.5e+07u w=5.5e+07u
X3 GND VDD sky130_fd_pr__cap_mim_m3_2 l=5.5e+07u w=5.5e+07u
X4 VDD GND sky130_fd_pr__cap_mim_m3_1 l=5.5e+07u w=5.5e+07u
X5 VDD GND sky130_fd_pr__cap_mim_m3_1 l=5.5e+07u w=5.5e+07u
X6 VDD GND sky130_fd_pr__cap_mim_m3_1 l=5.5e+07u w=5.5e+07u
X7 GND VDD sky130_fd_pr__cap_mim_m3_2 l=5.5e+07u w=5.5e+07u
X8 VDD GND sky130_fd_pr__cap_mim_m3_1 l=5.5e+07u w=5.5e+07u
X9 VDD GND sky130_fd_pr__cap_mim_m3_1 l=5.5e+07u w=5.5e+07u
X10 VDD GND sky130_fd_pr__cap_mim_m3_1 l=5.5e+07u w=5.5e+07u
X11 GND VDD sky130_fd_pr__cap_mim_m3_2 l=5.5e+07u w=5.5e+07u
X12 GND VDD sky130_fd_pr__cap_mim_m3_2 l=5.5e+07u w=5.5e+07u
X13 VDD GND sky130_fd_pr__cap_mim_m3_1 l=5.5e+07u w=5.5e+07u
X14 GND VDD sky130_fd_pr__cap_mim_m3_2 l=5.5e+07u w=5.5e+07u
X15 VDD GND sky130_fd_pr__cap_mim_m3_1 l=5.5e+07u w=5.5e+07u
X16 GND VDD sky130_fd_pr__cap_mim_m3_2 l=5.5e+07u w=5.5e+07u
X17 GND VDD sky130_fd_pr__cap_mim_m3_2 l=5.5e+07u w=5.5e+07u
X18 VDD GND sky130_fd_pr__cap_mim_m3_1 l=5.5e+07u w=5.5e+07u
X19 GND VDD sky130_fd_pr__cap_mim_m3_2 l=5.5e+07u w=5.5e+07u
X20 GND VDD sky130_fd_pr__cap_mim_m3_2 l=5.5e+07u w=5.5e+07u
X21 VDD GND sky130_fd_pr__cap_mim_m3_1 l=5.5e+07u w=5.5e+07u
X22 VDD GND sky130_fd_pr__cap_mim_m3_1 l=5.5e+07u w=5.5e+07u
X23 VDD GND sky130_fd_pr__cap_mim_m3_1 l=5.5e+07u w=5.5e+07u
X24 GND VDD sky130_fd_pr__cap_mim_m3_2 l=5.5e+07u w=5.5e+07u
X25 GND VDD sky130_fd_pr__cap_mim_m3_2 l=5.5e+07u w=5.5e+07u
X26 GND VDD sky130_fd_pr__cap_mim_m3_2 l=5.5e+07u w=5.5e+07u
X27 VDD GND sky130_fd_pr__cap_mim_m3_1 l=5.5e+07u w=5.5e+07u
X28 GND VDD sky130_fd_pr__cap_mim_m3_2 l=5.5e+07u w=5.5e+07u
X29 GND VDD sky130_fd_pr__cap_mim_m3_2 l=5.5e+07u w=5.5e+07u
X30 VDD GND sky130_fd_pr__cap_mim_m3_1 l=5.5e+07u w=5.5e+07u
X31 VDD GND sky130_fd_pr__cap_mim_m3_1 l=5.5e+07u w=5.5e+07u
.ends

.subckt user_analog_project_wrapper gpio_analog[0] gpio_analog[10] gpio_analog[11]
+ gpio_analog[12] gpio_analog[13] gpio_analog[14] gpio_analog[15] gpio_analog[16]
+ gpio_analog[17] gpio_analog[1] gpio_analog[2] gpio_analog[3] gpio_analog[4] gpio_analog[5]
+ gpio_analog[6] gpio_analog[7] gpio_analog[8] gpio_analog[9] gpio_noesd[0] gpio_noesd[10]
+ gpio_noesd[11] gpio_noesd[12] gpio_noesd[13] gpio_noesd[14] gpio_noesd[15] gpio_noesd[16]
+ gpio_noesd[17] gpio_noesd[1] gpio_noesd[2] gpio_noesd[3] gpio_noesd[4] gpio_noesd[5]
+ gpio_noesd[6] gpio_noesd[7] gpio_noesd[8] gpio_noesd[9] io_analog[0] io_analog[10]
+ io_analog[1] io_analog[2] io_analog[3] io_analog[7] io_analog[8] io_analog[9] io_analog[4]
+ io_analog[5] io_analog[6] io_clamp_high[0] io_clamp_high[1] io_clamp_high[2] io_clamp_low[0]
+ io_clamp_low[1] io_clamp_low[2] io_in[0] io_in[10] io_in[11] io_in[12] io_in[13]
+ io_in[14] io_in[15] io_in[16] io_in[17] io_in[18] io_in[19] io_in[1] io_in[20] io_in[21]
+ io_in[22] io_in[23] io_in[24] io_in[25] io_in[26] io_in[2] io_in[3] io_in[4] io_in[5]
+ io_in[6] io_in[7] io_in[8] io_in[9] io_in_3v3[0] io_in_3v3[10] io_in_3v3[11] io_in_3v3[12]
+ io_in_3v3[13] io_in_3v3[14] io_in_3v3[15] io_in_3v3[16] io_in_3v3[17] io_in_3v3[18]
+ io_in_3v3[19] io_in_3v3[1] io_in_3v3[20] io_in_3v3[21] io_in_3v3[22] io_in_3v3[23]
+ io_in_3v3[24] io_in_3v3[25] io_in_3v3[26] io_in_3v3[2] io_in_3v3[3] io_in_3v3[4]
+ io_in_3v3[5] io_in_3v3[6] io_in_3v3[7] io_in_3v3[8] io_in_3v3[9] io_oeb[0] io_oeb[10]
+ io_oeb[11] io_oeb[12] io_oeb[13] io_oeb[14] io_oeb[15] io_oeb[16] io_oeb[17] io_oeb[18]
+ io_oeb[19] io_oeb[1] io_oeb[20] io_oeb[21] io_oeb[22] io_oeb[23] io_oeb[24] io_oeb[25]
+ io_oeb[26] io_oeb[2] io_oeb[3] io_oeb[4] io_oeb[5] io_oeb[6] io_oeb[7] io_oeb[8]
+ io_oeb[9] io_out[0] io_out[10] io_out[11] io_out[12] io_out[13] io_out[14] io_out[15]
+ io_out[16] io_out[17] io_out[18] io_out[19] io_out[1] io_out[20] io_out[21] io_out[22]
+ io_out[23] io_out[24] io_out[25] io_out[26] io_out[2] io_out[3] io_out[4] io_out[5]
+ io_out[6] io_out[7] io_out[8] io_out[9] la_data_in[0] la_data_in[100] la_data_in[101]
+ la_data_in[102] la_data_in[103] la_data_in[104] la_data_in[105] la_data_in[106]
+ la_data_in[107] la_data_in[108] la_data_in[109] la_data_in[10] la_data_in[110] la_data_in[111]
+ la_data_in[112] la_data_in[113] la_data_in[114] la_data_in[115] la_data_in[116]
+ la_data_in[117] la_data_in[118] la_data_in[119] la_data_in[11] la_data_in[120] la_data_in[121]
+ la_data_in[122] la_data_in[123] la_data_in[124] la_data_in[125] la_data_in[126]
+ la_data_in[127] la_data_in[12] la_data_in[13] la_data_in[14] la_data_in[15] la_data_in[16]
+ la_data_in[17] la_data_in[18] la_data_in[19] la_data_in[1] la_data_in[20] la_data_in[21]
+ la_data_in[22] la_data_in[23] la_data_in[24] la_data_in[25] la_data_in[26] la_data_in[27]
+ la_data_in[28] la_data_in[29] la_data_in[2] la_data_in[30] la_data_in[31] la_data_in[32]
+ la_data_in[33] la_data_in[34] la_data_in[35] la_data_in[36] la_data_in[37] la_data_in[38]
+ la_data_in[39] la_data_in[3] la_data_in[40] la_data_in[41] la_data_in[42] la_data_in[43]
+ la_data_in[44] la_data_in[45] la_data_in[46] la_data_in[47] la_data_in[48] la_data_in[49]
+ la_data_in[4] la_data_in[50] la_data_in[51] la_data_in[52] la_data_in[53] la_data_in[54]
+ la_data_in[55] la_data_in[56] la_data_in[57] la_data_in[58] la_data_in[59] la_data_in[5]
+ la_data_in[60] la_data_in[61] la_data_in[62] la_data_in[63] la_data_in[64] la_data_in[65]
+ la_data_in[66] la_data_in[67] la_data_in[68] la_data_in[69] la_data_in[6] la_data_in[70]
+ la_data_in[71] la_data_in[72] la_data_in[73] la_data_in[74] la_data_in[75] la_data_in[76]
+ la_data_in[77] la_data_in[78] la_data_in[79] la_data_in[7] la_data_in[80] la_data_in[81]
+ la_data_in[82] la_data_in[83] la_data_in[84] la_data_in[85] la_data_in[86] la_data_in[87]
+ la_data_in[88] la_data_in[89] la_data_in[8] la_data_in[90] la_data_in[91] la_data_in[92]
+ la_data_in[93] la_data_in[94] la_data_in[95] la_data_in[96] la_data_in[97] la_data_in[98]
+ la_data_in[99] la_data_in[9] la_data_out[0] la_data_out[100] la_data_out[101] la_data_out[102]
+ la_data_out[103] la_data_out[104] la_data_out[105] la_data_out[106] la_data_out[107]
+ la_data_out[108] la_data_out[109] la_data_out[10] la_data_out[110] la_data_out[111]
+ la_data_out[112] la_data_out[113] la_data_out[114] la_data_out[115] la_data_out[116]
+ la_data_out[117] la_data_out[118] la_data_out[119] la_data_out[11] la_data_out[120]
+ la_data_out[121] la_data_out[122] la_data_out[123] la_data_out[124] la_data_out[125]
+ la_data_out[126] la_data_out[127] la_data_out[12] la_data_out[13] la_data_out[14]
+ la_data_out[15] la_data_out[16] la_data_out[17] la_data_out[18] la_data_out[19]
+ la_data_out[1] la_data_out[20] la_data_out[21] la_data_out[22] la_data_out[23] la_data_out[24]
+ la_data_out[25] la_data_out[26] la_data_out[27] la_data_out[28] la_data_out[29]
+ la_data_out[2] la_data_out[30] la_data_out[31] la_data_out[32] la_data_out[33] la_data_out[34]
+ la_data_out[35] la_data_out[36] la_data_out[37] la_data_out[38] la_data_out[39]
+ la_data_out[3] la_data_out[40] la_data_out[41] la_data_out[42] la_data_out[43] la_data_out[44]
+ la_data_out[45] la_data_out[46] la_data_out[47] la_data_out[48] la_data_out[49]
+ la_data_out[4] la_data_out[50] la_data_out[51] la_data_out[52] la_data_out[53] la_data_out[54]
+ la_data_out[55] la_data_out[56] la_data_out[57] la_data_out[58] la_data_out[59]
+ la_data_out[5] la_data_out[60] la_data_out[61] la_data_out[62] la_data_out[63] la_data_out[64]
+ la_data_out[65] la_data_out[66] la_data_out[67] la_data_out[68] la_data_out[69]
+ la_data_out[6] la_data_out[70] la_data_out[71] la_data_out[72] la_data_out[73] la_data_out[74]
+ la_data_out[75] la_data_out[76] la_data_out[77] la_data_out[78] la_data_out[79]
+ la_data_out[7] la_data_out[80] la_data_out[81] la_data_out[82] la_data_out[83] la_data_out[84]
+ la_data_out[85] la_data_out[86] la_data_out[87] la_data_out[88] la_data_out[89]
+ la_data_out[8] la_data_out[90] la_data_out[91] la_data_out[92] la_data_out[93] la_data_out[94]
+ la_data_out[95] la_data_out[96] la_data_out[97] la_data_out[98] la_data_out[99]
+ la_data_out[9] la_oenb[0] la_oenb[100] la_oenb[101] la_oenb[102] la_oenb[103] la_oenb[104]
+ la_oenb[105] la_oenb[106] la_oenb[107] la_oenb[108] la_oenb[109] la_oenb[10] la_oenb[110]
+ la_oenb[111] la_oenb[112] la_oenb[113] la_oenb[114] la_oenb[115] la_oenb[116] la_oenb[117]
+ la_oenb[118] la_oenb[119] la_oenb[11] la_oenb[120] la_oenb[121] la_oenb[122] la_oenb[123]
+ la_oenb[124] la_oenb[125] la_oenb[126] la_oenb[127] la_oenb[12] la_oenb[13] la_oenb[14]
+ la_oenb[15] la_oenb[16] la_oenb[17] la_oenb[18] la_oenb[19] la_oenb[1] la_oenb[20]
+ la_oenb[21] la_oenb[22] la_oenb[23] la_oenb[24] la_oenb[25] la_oenb[26] la_oenb[27]
+ la_oenb[28] la_oenb[29] la_oenb[2] la_oenb[30] la_oenb[31] la_oenb[32] la_oenb[33]
+ la_oenb[34] la_oenb[35] la_oenb[36] la_oenb[37] la_oenb[38] la_oenb[39] la_oenb[3]
+ la_oenb[40] la_oenb[41] la_oenb[42] la_oenb[43] la_oenb[44] la_oenb[45] la_oenb[46]
+ la_oenb[47] la_oenb[48] la_oenb[49] la_oenb[4] la_oenb[50] la_oenb[51] la_oenb[52]
+ la_oenb[53] la_oenb[54] la_oenb[55] la_oenb[56] la_oenb[57] la_oenb[58] la_oenb[59]
+ la_oenb[5] la_oenb[60] la_oenb[61] la_oenb[62] la_oenb[63] la_oenb[64] la_oenb[65]
+ la_oenb[66] la_oenb[67] la_oenb[68] la_oenb[69] la_oenb[6] la_oenb[70] la_oenb[71]
+ la_oenb[72] la_oenb[73] la_oenb[74] la_oenb[75] la_oenb[76] la_oenb[77] la_oenb[78]
+ la_oenb[79] la_oenb[7] la_oenb[80] la_oenb[81] la_oenb[82] la_oenb[83] la_oenb[84]
+ la_oenb[85] la_oenb[86] la_oenb[87] la_oenb[88] la_oenb[89] la_oenb[8] la_oenb[90]
+ la_oenb[91] la_oenb[92] la_oenb[93] la_oenb[94] la_oenb[95] la_oenb[96] la_oenb[97]
+ la_oenb[98] la_oenb[99] la_oenb[9] user_clock2 user_irq[0] user_irq[1] user_irq[2]
+ vccd1 vccd2 vdda1 vdda2 vssa1 vssa2 vssd1 vssd2 wb_clk_i wb_rst_i wbs_ack_o wbs_adr_i[0]
+ wbs_adr_i[10] wbs_adr_i[11] wbs_adr_i[12] wbs_adr_i[13] wbs_adr_i[14] wbs_adr_i[15]
+ wbs_adr_i[16] wbs_adr_i[17] wbs_adr_i[18] wbs_adr_i[19] wbs_adr_i[1] wbs_adr_i[20]
+ wbs_adr_i[21] wbs_adr_i[22] wbs_adr_i[23] wbs_adr_i[24] wbs_adr_i[25] wbs_adr_i[26]
+ wbs_adr_i[27] wbs_adr_i[28] wbs_adr_i[29] wbs_adr_i[2] wbs_adr_i[30] wbs_adr_i[31]
+ wbs_adr_i[3] wbs_adr_i[4] wbs_adr_i[5] wbs_adr_i[6] wbs_adr_i[7] wbs_adr_i[8] wbs_adr_i[9]
+ wbs_cyc_i wbs_dat_i[0] wbs_dat_i[10] wbs_dat_i[11] wbs_dat_i[12] wbs_dat_i[13] wbs_dat_i[14]
+ wbs_dat_i[15] wbs_dat_i[16] wbs_dat_i[17] wbs_dat_i[18] wbs_dat_i[19] wbs_dat_i[1]
+ wbs_dat_i[20] wbs_dat_i[21] wbs_dat_i[22] wbs_dat_i[23] wbs_dat_i[24] wbs_dat_i[25]
+ wbs_dat_i[26] wbs_dat_i[27] wbs_dat_i[28] wbs_dat_i[29] wbs_dat_i[2] wbs_dat_i[30]
+ wbs_dat_i[31] wbs_dat_i[3] wbs_dat_i[4] wbs_dat_i[5] wbs_dat_i[6] wbs_dat_i[7] wbs_dat_i[8]
+ wbs_dat_i[9] wbs_dat_o[0] wbs_dat_o[10] wbs_dat_o[11] wbs_dat_o[12] wbs_dat_o[13]
+ wbs_dat_o[14] wbs_dat_o[15] wbs_dat_o[16] wbs_dat_o[17] wbs_dat_o[18] wbs_dat_o[19]
+ wbs_dat_o[1] wbs_dat_o[20] wbs_dat_o[21] wbs_dat_o[22] wbs_dat_o[23] wbs_dat_o[24]
+ wbs_dat_o[25] wbs_dat_o[26] wbs_dat_o[27] wbs_dat_o[28] wbs_dat_o[29] wbs_dat_o[2]
+ wbs_dat_o[30] wbs_dat_o[31] wbs_dat_o[3] wbs_dat_o[4] wbs_dat_o[5] wbs_dat_o[6]
+ wbs_dat_o[7] wbs_dat_o[8] wbs_dat_o[9] wbs_sel_i[0] wbs_sel_i[1] wbs_sel_i[2] wbs_sel_i[3]
+ wbs_stb_i wbs_we_i
Xesd_0 top_0/Vb2 io_analog[4] io_analog[6] io_analog[5] esd
Xesd_1 top_0/Vb5 io_analog[3] io_analog[6] io_analog[5] esd
Xesd_2 esd_2/out io_analog[2] io_analog[6] io_analog[5] esd
Xesd_3 esd_3/out io_analog[1] io_analog[6] io_analog[5] esd
Xesd_4 esd_4/out io_analog[0] io_analog[6] io_analog[5] esd
Xesd_wide_2 top_0/Vout_p io_analog[9] io_analog[6] io_analog[5] esd_wide
Xesd_wide_3 top_0/Vout_n io_analog[10] io_analog[6] io_analog[5] esd_wide
Xesd_half_0 io_analog[6] io_analog[5] io_analog[8] esd_half
Xesd_half_1 io_analog[6] io_analog[5] io_analog[7] esd_half
Xtop_0 io_analog[6] io_analog[5] top_0/Vout_n top_0/Vout_p top_0/Vb2 top_0/Vb5 esd_2/out
+ esd_3/out esd_4/out io_analog[8] io_analog[7] top
Xbig_cap_0 io_analog[6] io_analog[5] big_cap
R0 io_analog[6] io_clamp_high[1] 0.000000
R1 io_clamp_high[2] io_analog[6] 0.000000
R2 io_analog[5] io_clamp_low[1] 0.000000
R3 io_analog[5] io_clamp_low[2] 0.000000
.ends

